US05238652
A solution of 1.93 g (4.5 mmole) of the above compound in 20 mL of dry tetrahydrofuran and 5 mL of 1,2-dimethoxylethane was treated with 0.52 g (2.5 mmole) of 1,3-dicyclohexylcarbodiimide. This mixture was stirred and heated at 45° C. for 72 hours. Then, triethylamine (0.6 mL), 4-dimethylaminopyridine (250 mg) and ecgonine hydrochloride (0.55 g, 2.4 mmole) were added, and the reaction was concentrated in vacuo to a dark, semi-solid residue which was taken up in a minimum of dichloromethane and applied atop a column packed with 60.0 g of Merck "60" silica gel. The column was eluted with a gradient of 20 to 40% of methanol in ethyl acetate. The homogeneous fractions showed an Rf on silica gel plates of 0.16 in 3:1 methanol/acetate containing 1% of NH4OH solution. There was obtained 230 mg of [4-(6-carbobenzyloxy-aminocaproyl) aminobenzoyl] ecgonine as an amorphous powder.

reactant | 1,3-dicyclohexylcarbodiimide | 2.5 mmole, 0.52 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 0.6 mL | C(C)N(CC)CC | C6H15N
reactant | ecgonine hydrochloride | 2.4 mmole, 0.55 g | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)O)C(=O)O.Cl
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | 1,2-dimethoxylethane | 5 mL | O(C)CCOC | C4H10O2
catalyst | 4-dimethylaminopyridine | 250 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | ecgonine | CN1[C@H]2CC[C@@H]1[C@H]([C@H](C2)O)C(=O)O | C9H15NO3
